US03931358
2-Cyanomethylthiobenzothiazole.
In a 1 liter flask were combined 33.4 g. (0.2 mole) of 2-mercaptobenzothiazole and 22.4 g. (0.2 mole) of potassium t-butoxide with 300 ml. of tetrahydrofuran. The reaction mass was stirred at room temperature for 15 minutes. Chloroacetonitrile, 16 g. (0.2 mole) was added and the resulting mixture was stirred at room temperature for 1 hour. The mixture was then poured into 400 ml. of benzene and was washed with three 250 ml. portions of water. The benzene phase was dried with anhydrous magnesium sulfate. The solvent was evaporated. There was obtained a yield of 37.2 g. of the title compound, m.p. 75°-77°C.

reactant | 2-mercaptobenzothiazole | 0.2 mole | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | potassium t-butoxide | 0.2 mole | CC(C)([O-])C.[K+]
reactant | Chloroacetonitrile | ClCC#N | C2H2ClN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-Cyanomethylthiobenzothiazole | C(#N)CSC=1SC2=C(N1)C=CC=C2 | C9H6N2S2
